US08440689B2
(R)-tert-Butyl 1-(7-fluoro-3-oxo-4-(m-tolylamino)-2,3-dihydro-1H-pyrrolo[3,4-c]pyridin-6-ylamino)-3-methoxypropan-2-ylcarbamate
To a screw-top vial was added (R)-tert-butyl 1-methoxy-3-(3-oxo-4-(m-tolylamino)-2,3-dihydro-1H-pyrrolo[3,4-c]pyridin-6-ylamino)propan-2-ylcarbamate (27 mg, 0.061 mmol) in a mixture of DCM and MeOH (1/1, 1.2 mL). The resulting colorless solution was cooled to 0° C. SELECTFLUOR® (21.66 mg, 0.061 mmol) was added and the reaction mixture was stirred at 0° C. for 2 h. Next, the reaction mixture was diluted with EtOAc (10 mL) and washed with saturated aq sodium bicarbonate (5 mL), water (5 mL), and brine (5 mL). The organic layer was collected, dried over Na2SO4, and concentrated to give the title compound as a brown residue, which was used without further purification (32 mg, 114%). [M+H] calc'd for C23H30FN5O4, 460. found, 460.

reactant | (R)-tert-butyl 1-methoxy-3-(3-oxo-4-(m-tolylamino)-2,3-dihydro-1H-pyrrolo[3,4-c]pyridin-6-ylamino)propan-2-ylcarbamate | 0.061 mmol, 27 mg | COC[C@@H](CNC1=CC2=C(C(=N1)NC=1C=C(C=CC1)C)C(NC2)=O)NC(OC(C)(C)C)=O | C23H31N5O4
reactant | SELECTFLUOR | [B-](F)(F)(F)F.[B-](F)(F)(F)F.C1C[N+]2(CC[N+]1(CC2)CCl)F
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | EtOAc THF | 1.2 mL | CCOC(=O)C.C1CCOC1
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
product | (R)-tert-Butyl 1-(7-fluoro-3-oxo-4-(m-tolylamino)-2,3-dihydro-1H-pyrrolo[3,4-c]pyridin-6-ylamino)-3-methoxypropan-2-ylcarbamate | FC=1C2=C(C(=NC1NC[C@H](COC)NC(OC(C)(C)C)=O)NC=1C=C(C=CC1)C)C(NC2)=O | C23H30FN5O4
